US09281482B2
(2) synthesis of N-(4-bromophenyl)-N-(phenanthren-9-yl)phenanthren-9-amine
Diphenanthren-9-ylamine (4.50 g, 12.18 mmol), 1,4-dibromobenzene (3.02 mL, 25.12 mmol), Pd2(dba)3 (307 mg, 0.355 mmol), tris-o-tolyphosphine (0.255 mL, 0.837 mmol), sodium tert-butoxide (3.2 g, 33.49 mmol) were put in a 250 mL two-neck flask and dissolved in toluene. The solution was refluxed and stirred for 12 hours. After completion of the reaction, the solution was extracted with DI water/methylenechloride and distilled under reduced pressure to remove the solvent. The resultant was columned with a solution of n-hexane and methylenechloride (7:1). The resultant was distilled under reduced pressure and re-crystallized such that the wax compound was obtained, (2.8 g, yield: 44%).

reactant | Diphenanthren-9-ylamine | 12.18 mmol, 4.50 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)NC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C28H19N
reactant | 1,4-dibromobenzene | 25.12 mmol, 3.02 mL | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | sodium tert-butoxide | 33.49 mmol, 3.2 g | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.355 mmol, 307 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-bromophenyl)-N-(phenanthren-9-yl)phenanthren-9-amine | yield: 44% | BrC1=CC=C(C=C1)N(C=1C2=CC=CC=C2C=2C=CC=CC2C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C34H22BrN
